US05861421
35a) 4-iodophenoxyacetic acid methyl ester
A stirred mixture of 4-iodophenol (0.50 g, 2.27 mmol), methyl 2-bromoacetate (0.382 g, 2.50 mmol), and powdered potassium carbonate (0.314 g, 2.27 mmol) in dry acetone under argon was sealed and heated at 70° C. for 4 hr. The cooled mixture was filtered, and the filtrate was evaporated in vacuo. The residue was purified by chromatography (silica, 40 to 50% methylene chloride in cyclohexane) and the solvent was removed in vacuo to afford the titled intermediate as a white solid (0.41 g, 62%), mp 69°-70° C.

reactant | 4-iodophenol | 2.27 mmol, 0.50 g | IC1=CC=C(C=C1)O | C6H5IO
reactant | methyl 2-bromoacetate | 2.50 mmol, 0.382 g | BrCC(=O)OC | C3H5BrO2
reactant | potassium carbonate | 2.27 mmol, 0.314 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetone | CC(=O)C | C3H6O
product | 4-iodophenoxyacetic acid methyl ester | 0.41 g, 62% | COC(COC1=CC=C(C=C1)I)=O | C9H9IO3
